US07652051B2
Synthesis of 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridazin-3-ylamine trifluoroacetic acid salt
4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (120.0 mg, 0.338 mmol) was dissolved in 3 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (81.0 mg, 0.406 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 3-amino-6-chloro-pyridazine (48.2 mg, 0.372 mmol) was added, followed by anhydrous K2CO3 (46.7 mg, 0.338 mmol). Then the vial was capped and microwaved at 200° C. for 30 min. After reaction was complete, the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (18.2 mg).

reactant | 4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.338 mmol, 120.0 mg | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)C(F)(F)F | C15H10ClF3N4O
reactant | potassium bis(trimethylsilyl)amide | 0.406 mmol, 81.0 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-amino-6-chloro-pyridazine | 0.372 mmol, 48.2 mg | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | K2CO3 | 0.338 mmol, 46.7 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridazin-3-ylamine trifluoroacetic acid salt | 18.2 mg | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(OC2=CC=C(N=N2)N)C=C1)C(F)(F)F | InChI=1S/C19H13ClF3N7O.C2HF3O2/c20-14-6-3-11(9-13(14)19(21,22)23)25-18-26-17(29-30-18)10-1-4-12(5-2-10)31-16-8-7-15(24)27-28-16;3-2(4,5)1(6)7/h1-9H,(H2,24,27)(H2,25,26,29,30);(H,6,7)
